US06046208
a) (4-N-t-Butoxycarbonylpiperazin-1-yl)-3-hydroxybenzamide
3-Hydroxybenzoic acid (0.483 g, 3.5 mmol), BOC piperazine (0.737 g, 3.96 mmol), Et3N (0.92 mL, 6.6 mmol), and CH2Cl2 (10 mL) were combined, cooled to 4° and solid Bis(2-oxo-3-oxazolidinyl)-phosphinic chloride (0.889 g, 3.5 mmol) was added under Ar. The ice bath was removed and a clear solution was obtained on warming to 23°. After 1 h tlc(silica plates, 19:1 CH2Cl2 /CH3OH) indicated a completed reaction. The reaction was diluted with CH2Cl2 (100 mL), washed with 0.3 N HCl (20 mL), H2O (20 mL), satd aq NaHCO3 (20 mL) and satd aq NaCl (20 mL), dried (Na2SO4) filtered and concentrated to afford the title compound as a white foam. 1H NMR (CDCl3): d 7.20 (m, 1), 6.90 (s, 1), 6.86 (d, 1), 6.82 (d, 1) 3.69 (m, 2), 3.39 (m, 4), 1.46 (s, 9).

reactant | 3-Hydroxybenzoic acid | 3.5 mmol, 0.483 g | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | BOC piperazine | 3.96 mmol, 0.737 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | Et3N | 6.6 mmol, 0.92 mL | CCN(CC)CC | C6H15N
reactant | Bis(2-oxo-3-oxazolidinyl)-phosphinic chloride | 3.5 mmol, 0.889 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 CH3OH | C(Cl)Cl.CO
product | (4-N-t-Butoxycarbonylpiperazin-1-yl)-3-hydroxybenzamide | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C(=O)N)C=CC=C1O | C16H23N3O4
